US06043248
A suspension of 4-picolyl chloride hydrochloride (10.0 g, 60.98 mmol) in 100 ml of methylene chloride at room temperature is treated with morpholine (26.52 g, 304.9 mmol, 5.0 equiv.) at once. After stirring for 50 h, the reaction mixture is poured into 250 ml of water, extracted six times with ethylacetate, three times with ethylacetate-methanol (9:1) and the combined organic extracts are dried over Na2SO4. The concentrated filtrate is chromatographed with 350 g of silica gel, packed and eluted with acetone-methylene chloride (1:2), to give 9.17 g (84%) of 4-(4-morpholinyl)methylpyridine as a yellow liquid.

reactant | 4-picolyl chloride hydrochloride | 60.98 mmol, 10.0 g | Cl.N1=CC=C(C=C1)CCl
reactant | morpholine | 304.9 mmol, 26.52 g, 5.0 equiv. | N1CCOCC1 | C4H9NO
reactant | water | 250 ml | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-morpholinyl)methylpyridine | 9.17 g, 84% | N1(CCOCC1)CC1=CC=NC=C1 | C10H14N2O
